Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Percocet / minocycline / sulfamethoxazole
 
Attending: ___.
 
Chief Complaint:
Visual changes/Pituitary tumor
 
Major Surgical or Invasive Procedure:
___ - Transphenoidal resection of pituitary mass

 
History of Present Illness:
___ is a ___ year old female with a known pituitary 
macroadenoma.  She has been followed as an outpatient by 
Neurosurgery and Ophthalmology.  During her last follow up there 
was question of a possible visual field cut in her temporal 
field.  Given these changes and increased tumor size on recent 
imaging the decision was made to undergo surgery. She presents 
for elective transphenoidal resection of the pituitary tumor. 
 
Past Medical History:
IBS, removal of polyp ("golf size") from large intestine as 
child due to bleeding.  

 
Social History:
___
Family History:
NC
 
Physical Exam:
Upon Discharge:
She is awake, alert, and cooperative with the exam. She is 
oriented to self, location, and date. EOMI, PERRL ___. ___, no 
pronator drift. She moves all her extremities with ___ strength. 
Sensation is intact to light touch bilaterally throughout all 
extremities. She denies blurry vision or any visual changes. 
Abdominal incision is C/D/I with dermabond closure. 

 
Pertinent Results:
___ CT sinus 
1. Except for a mucous retention cyst along the floor of the 
right maxillary 
sinus, the paranasal sinuses are essentially clear.  
Postsurgical changes 
related to prior transsphenoidal surgery are noted. 
2.  Please refer to recent pituitary MRI for full description of 
large 
intrasellar mass with suprasellar extension. 

___ MRI head 
1. Overall unchanged 19 x 14 x 21 mm right intra and suprasellar 
mass 
producing mass effect upon the optic chiasm. 
2. No new enhancing mass. 
3. Examination was performed for pre-surgical planning. 

___ CT head
1. Status post resection of a pituitary macroadenoma with 
expected 
postoperative changes including pneumocephalus and acute 
suprasellar blood 
products measuring up to 1.7 cm.  Persistent effacement of the 
anterolateral 
suprasellar cistern on right. 
2. Opacification of the paranasal sinuses, also likely due to 
recent surgery. 
 
Brief Hospital Course:
___ is a ___ year old female who presents for elective 
transphenoidal resection of a pituitary tumor.  The procedure 
was uncomplicated. For further details, please see separately 
dictated operative report by Dr. ___. The patient was 
extubated and transported to the PACU for recovery. She was then 
transferred to the ___ for close monitoring. 

#Pituitary Tumor
The patient tolerated the procedure well. Post-op Head CT showed 
expected surgical changes and pneumocephalus. On POD 2, she was 
stable on neurological examination. She was transferred to the 
floor. On POD 3, she complained of a headache that was relieved 
with pain medication. 

#Endocrine
Endocrine was consulted and pituitary labs were ordered.  The 
patient was initially started on Hydrocortisone 100mg TID, and 
this was decreased to 50mg TID on ___ and again to 20mg QAM 
and 10mg QPM on ___.  She was monitored closely for DI and 
urine output remained appropriate. She will follow up with 
Endocrinology on an outpatient basis. 

#ENT 
Nasal packing was removed on ___. PRN nasal sprays were 
ordered at the recommendation of ENT surgery. She will follow up 
with ENT on an outpatient basis. 

At the time of discharge, her pain was well controlled with 
medications. She was tolerating a diet and ambulating. Her vital 
signs were stable and she was afebrile. She was discharged to 
home. 
 
Medications on Admission:
cabergolyine, Loryna

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Bisacodyl 10 mg PO DAILY:PRN constipation  
3.  Docusate Sodium 100 mg PO BID  
4.  Hydrocortisone 25 mg PO DAILY  
5.  Hydrocortisone 10 mg PO Q1500  
6.  Hydrocortisone 20 mg PO DAILY 
RX *hydrocortisone 10 mg ___ tablet(s) by mouth see additional 
instructions Disp #*45 Tablet Refills:*0 
7.  Omeprazole 20 mg PO DAILY  
8.  Senna 8.6 mg PO BID:PRN constipation  
9.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every 6 hours PRN pain 
Disp #*40 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pituitary Tumor

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Transphenoidal Excision of Tumor
¨Take your pain medicine as prescribed.
¨Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
¨Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
¨Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
¨Clearance to drive and return to work will be addressed at 
your post-operative office visit.
¨Continue Sinus Precautions for an additional two weeks.  This 
means, no use of straws, forceful blowing of your nose, or use 
of your incentive spirometer. 
¨You are being discharged on Hydrocortisone. Take it daily as 
prescribed.  
¨If you are required to take Prednisone, an oral steroid, make 
sure you are taking a medication to protect your stomach 
(Prilosec, Protonix, or Pepcid), as this medication can cause 
stomach irritation.  Prednisone should also be taken with a 
glass of milk or with a meal. 

CALL YOUR DOCTOR IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING
¨New onset of tremors or seizures.
¨Any confusion or change in mental status. 
¨Any numbness, tingling, weakness in your extremities.
¨Pain or headache that is continually increasing, or not 
relieved by pain medication.
¨Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
¨It is normal for feel nasal fullness for a few days after 
surgery, but if you begin to experience drainage or salty taste 
at the back of your throat, that resembles a “dripping” 
sensation, or persistent, clear fluid that drains from your nose 
that was not present when you were sent home, please call. 
¨Fever greater than or equal to 101° F.
¨If you notice your urine output to be increasing, and/or 
excessive, and you are unable to quench your thirst, please call 
your endocrinologist. 
 
Followup Instructions:
___